US07078405B2
8-(2,4-Dichlorophenyl)-2-methyl-3-nitroimidazo[1,2-a]pyrazine (25 mg, 0.077 mmol) was dissolved in ethanol (0.36 mL), then acetic acid (0.5 mL) and iron powders (22 mg) were added thereto, and the mixture was stirred for 1 hour by heating under reflux. After the reaction mixture was allowed to cool, the solvent was evaporated and it was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=4:1) to give 8-(2,4-dichlorophenyl)-2-methylimidazo[1,2-a]pyrazin-3-amine (8 mg) as yellow crystals.

reactant | 8-(2,4-Dichlorophenyl)-2-methyl-3-nitroimidazo[1,2-a]pyrazine | 0.077 mmol, 25 mg | ClC1=C(C=CC(=C1)Cl)C=1C=2N(C=CN1)C(=C(N2)C)[N+](=O)[O-] | C13H8Cl2N4O2
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 0.36 mL | C(C)O | C2H6O
catalyst | iron | 22 mg | [Fe] | Fe
product | 8-(2,4-dichlorophenyl)-2-methylimidazo[1,2-a]pyrazin-3-amine | 8 mg | ClC1=C(C=CC(=C1)Cl)C=1C=2N(C=CN1)C(=C(N2)C)N | C13H10Cl2N4
